US03950427
(E)-4-(2'-Fluoro-4-biphenylyl)-3-buten-2-one by method E
200.2 Gm (1.0 mol) of 2'-fluoro-4-biphenyl-carboxaldehyde, 3500 gm (60.3 mols) of acetone and 200 ml of methanol were charged into a 6-liter three-neck-flask equipped with a stirrer, a dropping funnel and an internal thermometer. While thoroughly stirring the contents of the flask, a solution of 2.805 gm (0.05 mol) of potassium hydroxide in 16 ml of water was added dropwise thereto while maintaining a reaction temperature of 20° to 25°C, and the resulting mixture was stirred for three hours more. Thereafter, the precipitated solid side product was filtered off, the filtrate was made neutral by dropwise addition of glacial acetic acid, and the neutral solution was evaporated in vacuo. The residue was recrystallized three times from diisopropyl ether and then once from a mixture of ethyl acetate and diisopropyl ether (volumetric ratio 1:1) in the presence of activated charcoal, yielding 101.2 gm (42% of theory) of the fallow crystalline compound of the formula ##SPC20##

reactant | 2'-fluoro-4-biphenyl-carboxaldehyde | 1.0 mol | FC1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C13H9FO
reactant | acetone | 60.3 mols, 3500 gm | CC(=O)C | C3H6O
reactant | methanol | 200 ml | CO | CH4O
reactant | potassium hydroxide | 0.05 mol, 2.805 gm | [OH-].[K+]
solvent | water | 16 ml | O | H2O
product | (E)-4-(2'-Fluoro-4-biphenylyl)-3-buten-2-one | FC1=C(C=CC=C1)C1=CC=C(C=C1)/C=C/C(C)=O | C16H13FO
